US08252806B2
Cyclohexyl-[2-(3,5-diisopropyl-pyrazol-1-yl)-quinazolin-4-yl]-amine, Hydrochloride (Compound A23)
Was prepared according to Method A from 2,4-dichloroquinazoline, cyclohexylamine and 3,5-diisopropylpyrazole with sodium hydride as base instead of triethylamine. Mp. 83.4-85.3° C.

reactant | 2,4-dichloroquinazoline | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
reactant | 3,5-diisopropylpyrazole | C(C)(C)C1=NNC(=C1)C(C)C | C9H16N2
reactant | sodium hydride | [H-].[Na+]
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | Cyclohexyl-[2-(3,5-diisopropyl-pyrazol-1-yl)-quinazolin-4-yl]-amine, Hydrochloride | Cl.C1(CCCCC1)NC1=NC(=NC2=CC=CC=C12)N1N=C(C=C1C(C)C)C(C)C | InChI=1S/C23H31N5.ClH/c1-15(2)20-14-21(16(3)4)28(27-20)23-25-19-13-9-8-12-18(19)22(26-23)24-17-10-6-5-7-11-17;/h8-9,12-17H,5-7,10-11H2,1-4H3,(H,24,25,26);1H
